US04282215
A stock solution of calcium aspirin is prepared by mixing 4.032 gm of aspirin and 1.120 gm of precipitated calcium carbonate with 50 ml of distilled water at 40°-50° C. until the solids are completely dissolved, then diluting to 60 ml with distilled water at ambient temperature to obtain a solution containing 67.2 mg/ml of aspirin equivalent. All dosing solutions are prepared by dilution of the stock solution with distilled water; the vehicle control is distilled water. All solutions are used within two hours of preparation, then discarded.

reactant | aspirin | 4.032 gm | CC(=O)OC=1C=CC=CC1C(=O)O | C9H8O4
reactant | calcium carbonate | 1.120 gm | C([O-])([O-])=O.[Ca+2]
solvent | water | O | H2O
solvent | water | 50 ml | O | H2O
product | calcium aspirin | CC(=O)OC1=CC=CC=C1C(=O)[O-].CC(=O)OC1=CC=CC=C1C(=O)[O-].[Ca+2] | InChI=1S/2C9H8O4.Ca/c2*1-6(10)13-8-5-3-2-4-7(8)9(11)12;/h2*2-5H,1H3,(H,11,12);/q;;+2/p-2
